US06306463B1
N,N′,N″-tri-iso-amylcitramide was prepared by the reaction of iso-amylamine with triethylcitrate. To a round-bottomed flask were added triethylcitrate (30.001 g, 1 eq), iso-amylamine (28.399 g, 3.0 eq) and methanol (40 mL). The clear light yellow solution stirred for 2 days at room temperature and then additional amine (1.1 eq) was added. After stirring 1 week, a clear yellow solution was observed. Methanol was removed in vacuo and the resulting white solid was triturated using diethylether, collected via filtration and dried in vacuo to give a white powder with a very slight odor (22.52 g, 52.1% yield).

reactant | iso-amylamine | C(CC(C)C)N | C5H13N
reactant | triethylcitrate | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | triethylcitrate | 30.001 g, 1 eq | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | iso-amylamine | 28.399 g, 3.0 eq | C(CC(C)C)N | C5H13N
solvent | methanol | 40 mL | CO | CH4O
product | N,N′,N″-tri-iso-amylcitramide | 52.1% yield | C(CC(C)C)NC(CC(O)(C(=O)NCCC(C)C)CC(=O)NCCC(C)C)=O | C21H41N3O4
